US07268232B2
4-(4-Oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-8-yl)naphthalene-1-carbonitrile (196MBT2-17)
The title compound (7 mg, 16% yield) was prepared as described for 196MBT2-4 from 1-cyano-4-fluoronaphthalene (20 mg, 0.117 mmol) and 1-phenyl-1,3,8-triazaspiro-[4,5]decan-4-one (108 mg, 0.468 mmol).

reactant | 1-cyano-4-fluoronaphthalene | 0.117 mmol, 20 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | 1-phenyl-1,3,8-triazaspiro-[4,5]decan-4-one | 0.468 mmol, 108 mg | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | 4-(4-Oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-8-yl)naphthalene-1-carbonitrile | 7 mg, 16% yield | O=C1NCN(C12CCN(CC2)C2=CC=C(C1=CC=CC=C21)C#N)C2=CC=CC=C2 | C24H22N4O
